US04800154
(i) Synthesis of 3-{4-(2-formylhydrazino)phenyl}carbamoylmethylrhodanine
To a mixture of 1.91 g (10 millimole) of 3-carboxymethylrhodanine, 1.51 g (10 millimole) of 2-(4-aminophenyl)-1-formylhydrazine and 2.06 g (10 millimole) of N,N'-dicyclohexylcarbodiimide was added 50 ml of tetrahydrofuran. The resulting mixture was stirred for 5 hours at room temperature to precipitate crystals. These were filtered off, and dissolved in 50 ml of N,N-dimethylformamide (DMF). The matter remaining insoluble was removed from the solution. 100 ml of water was added to the filtrate, and allowed to stand for one night to precipitate crystals. These were filtered off, and washed with water and methanol. Thus, the intended compound was obtained. Yield, 2.98 g (92%). Melting Point, 260° C. (decomposed).

reactant | 3-carboxymethylrhodanine | 10 millimole, 1.91 g | C(=O)(O)CN1C(SCC1=O)=S | C5H5NO3S2
reactant | 2-(4-aminophenyl)-1-formylhydrazine | 10 millimole, 1.51 g | NC1=CC=C(C=C1)NNC=O | C7H9N3O
reactant | N,N'-dicyclohexylcarbodiimide | 10 millimole, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-{4-(2-formylhydrazino)phenyl}carbamoylmethylrhodanine | C(=O)NNC1=CC=C(C=C1)NC(=O)CN1C(SCC1=O)=S | C12H12N4O3S2
